US09340538B2
Isopropyl 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2.38 g, 5 mmol) was reacted with isopropyl morpholine-3-carboxylate hydrochloride (1.05 g, 5 mmol) according to the procedure as described in Example 24 to give the title compound as a yellow solid (1.79 g, 63%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 5 mmol, 2.38 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | isopropyl morpholine-3-carboxylate hydrochloride | 5 mmol, 1.05 g | Cl.N1C(COCC1)C(=O)OC(C)C
product | Isopropyl 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate | 1.79 g, 63% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)OC(C)C)C(=O)OCC | C25H28Cl2N4O5S
